US05338879
It is further noted that trimethylcyclohexanone can be prepared by a hydrogenation reaction of isophorone, followed by a Baeyer-Villiger reaction with a peracid to obtain trimethylcaprolactone on a commercial basis.

reactant | trimethylcyclohexanone | CC1C(C(CCC1)=O)(C)C | C9H16O
reactant | isophorone | O=C1C=C(CC(C)(C)C1)C | C9H14O
product | trimethylcaprolactone | CC1C(C(=O)OCCC1)(C)C | C9H16O2
